US09023849B2
2-[1-(2,3-Difluorobenzyl)-6-methyl-1H-pyrazolo[3,4-d]pyrimidin-3-yl]-4-iodo-5,5-dimethyl-5,7-dihydro-6H-pyrrolo[2,3-d]pyrimidin-6-one
150 mg (0.34 mmol) of 4-amino-2-[1-(2,3-difluorobenzyl)-6-methyl-1H-pyrazolo[3,4-d]pyrimidin-3-yl]-5,5-dimethyl-5,7-dihydro-6H-pyrrolo[2,3-d]pyrimidin-6-one were admixed with 6.650 g (19.86 mmol) of diiodomethane and 402 mg (3.44 mmol) of isopentyl nitrite. The mixture was stirred at 85° C. for 8 h. 70 mg (0.69 mmol) of triethylamine were added and the mixture was again boiled under reflux at 85° C. After cooling, the mixture was diluted with acetonitrile and purified by means of preparative HPLC (eluent: acetonitrile/water with, gradient 30:70→95:5). 44 mg (purity 67%, 16% of theory) of the target compound were obtained.

reactant | 4-amino-2-[1-(2,3-difluorobenzyl)-6-methyl-1H-pyrazolo[3,4-d]pyrimidin-3-yl]-5,5-dimethyl-5,7-dihydro-6H-pyrrolo[2,3-d]pyrimidin-6-one | 0.34 mmol, 150 mg | NC=1C2=C(N=C(N1)C1=NN(C3=NC(=NC=C31)C)CC3=C(C(=CC=C3)F)F)NC(C2(C)C)=O | C21H18F2N8O
reactant | diiodomethane | 19.86 mmol, 6.650 g | ICI | CH2I2
reactant | isopentyl nitrite | 3.44 mmol, 402 mg | N(=O)OCCC(C)C | C5H11NO2
reactant | triethylamine | 0.69 mmol, 70 mg | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | C(C)#N | C2H3N
product | 2-[1-(2,3-Difluorobenzyl)-6-methyl-1H-pyrazolo[3,4-d]pyrimidin-3-yl]-4-iodo-5,5-dimethyl-5,7-dihydro-6H-pyrrolo[2,3-d]pyrimidin-6-one | FC1=C(CN2N=C(C=3C2=NC(=NC3)C)C=3N=C(C2=C(N3)NC(C2(C)C)=O)I)C=CC=C1F | C21H16F2IN7O
